US03992408
In the manner given in Example 28, 8-nitro-1-(phthalimidomethyl)-6-(o-chlorophenyl)-4H-imidazo[1,2 -a][1,4]benzodiazepine is reacted at room temperature with hydrazine hydrate, dissolved in ethanol to give 8-nitro-1-(aminomethyl)-6 -(o-chlorophenyl-4H-imidazo[1,2-a][1,4]-benzodiazepine.

reactant | 8-nitro-1-(phthalimidomethyl)-6-(o-chlorophenyl)-4H-imidazo[1,2 -a][1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=CN3)CN3C(C=2C(C3=O)=CC=CC2)=O)C2=C(C=CC=C2)Cl)C1 | C26H16ClN5O4
reactant | hydrazine hydrate | O.NN
reactant | ethanol | C(C)O | C2H6O
product | o-chlorophenyl-4H-imidazo[1,2-a][1,4]-benzodiazepine | ClC1=C(C=CC=C1)C1=CN=C2N1C1=C(C=NC2)C=CC=C1 | C17H12ClN3
